US06255307B1
5. 2-Amino-6-chloro-3-(2,3,5-trichlorophenyl)pyrazine
A solution of 2,3,5-trichlorobenzeneboronic acid (1.62 g, 7.18×10−3 mole) in absolute ethanol (2.05 ml) was added slowly to a mixture of 2-amino-3-bromo-6-chloropyrazine (1 g, 5.1×10−3 mole) and tetrakis(triphenylphospine)palladium(0) (0.334 g,2.89×10−4 mole) in benzene (10.20 ml)/2M aqueous sodium carbonate (5.50 ml). The mixture was refluxed for 17 hrs. The cooled reaction mixture was evaporated in vacuo and then extracted with chloroform (50 ml). The chloroform layer was washed with water (2×30 ml), dried over anhydrous magnesium sulphate, filtered and the filtrate evaporated down in vacuo. The residue was triturated with 40-60° C. petroleum ether, filtered and dried in vacuo. Yield 0.205 g (14%), M.p. 211-214° C.

reactant | 2,3,5-trichlorobenzeneboronic acid | 7.18×10−3 mole, 1.62 g | ClC1=C(C=C(C=C1Cl)Cl)B(O)O | C6H4BCl3O2
reactant | 2-amino-3-bromo-6-chloropyrazine | 5.1×10−3 mole, 1 g | NC1=NC(=CN=C1Br)Cl | C4H3BrClN3
reactant | sodium carbonate | 2M, 5.50 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 2.05 ml | C(C)O | C2H6O
solvent | benzene | 10.20 ml | C1=CC=CC=C1 | C6H6
product | 2-Amino-6-chloro-3-(2,3,5-trichlorophenyl)pyrazine | NC1=NC(=CN=C1C1=C(C(=CC(=C1)Cl)Cl)Cl)Cl | C10H5Cl4N3
